US09062092B2
Compound 102d. 1-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-3-triisopropylsilanyloxy-cyclopentanecarboxylic acid
A solution of (S)-1-[(S)-2-((S)-2-cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (795.0 mg, 1.493 mmol), 3-triisopropylsilanyloxy-1-vinyl-cyclopentanecarboxylic acid (466.6 mg, 1.493 mmol), tri(o-tolyl)phosphine (91.0 mg, 0.299 mmol) and triethylamine (0.63 mL, 4.479 mmol) in 1,4-dioxane (20 mL) was deoxygenated by bubbling through nitrogen for 5 min. The reaction mixture was then treated with tris(dibenzylideneacetone)dipalladium(0) (136.7 mg, 0.149 mmol). After stirring at 100° C. for 40 min, the reaction was cooled to room temperature and filtered through Celite. The solid was rinsed with ethyl acetate and the volatiles were removed in vacuo to provide the crude title compound (1.493 mmol) as an orange foam. LCMS (m/z) 764.4 [M−H], Tr=3.53 min.

reactant | (S)-1-[(S)-2-((S)-2-cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 1.493 mmol, 795.0 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@@H](O)C1CC1)=O)=O | C24H30BrN5O4
reactant | 3-triisopropylsilanyloxy-1-vinyl-cyclopentanecarboxylic acid | 1.493 mmol, 466.6 mg | C(C)(C)[Si](OC1CC(CC1)(C(=O)O)C=C)(C(C)C)C(C)C | C17H32O3Si
reactant | tri(o-tolyl)phosphine | 0.299 mmol, 91.0 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 4.479 mmol, 0.63 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.149 mmol, 136.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-3-triisopropylsilanyloxy-cyclopentanecarboxylic acid | 1.493 mmol | C1(CC1)[C@@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(CC(CC1)O[Si](C(C)C)(C(C)C)C(C)C)C(=O)O)C)O | C41H61N5O7Si
